US05519034
A mixture of 2-chlorophenylacetonitrile (20 g), 1,4-dibromobutane (28.5 g) and dimethyl sulphoxide (100 ml) was added dropwise to a stirred suspension of powdered potassium hydroxide (26 g) in dry dimethylsulphoxide (300 ml). The mixture was stirred for one hour, then poured onto ice/water and extracted with ethyl acetate. The extracts yielded an oil which was distilled under vacuum (b.p. 112°-116° C./1 mbar) to give 1-(2-chlorophenyl)cyclopentanecarbonitrile (16.7 g).

reactant | 2-chlorophenylacetonitrile | 20 g | ClC1=C(C=CC=C1)CC#N | C8H6ClN
reactant | 1,4-dibromobutane | 28.5 g | BrCCCCBr | C4H8Br2
reactant | potassium hydroxide | 26 g | [OH-].[K+]
solvent | dimethylsulphoxide | 300 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-(2-chlorophenyl)cyclopentanecarbonitrile | 16.7 g | ClC1=C(C=CC=C1)C1(CCCC1)C#N | C12H12ClN
